US06680313B2
b) 7-(3-Aminopropyl)thioimidazo[5,1-b]thiazole
7-(3-Azidopropyl)thioimidazo[5,1-b]thiazole (1.46 g) was dissolved in 30 ml of THF ethanol and 6 ml of water, and 6.1 ml of a 1 N aqueous hydrochloric acid solution and 1.46 g of 10% Pd-C were added to the solution. The air in the reaction vessel was replaced by hydrogen, and the contents of the reaction vessel were stirred at room temperature for 24 hr. The catalyst was removed by filtration on Celite, and was washed with water. The filtrate was concentrated under the reduced pressure. A 1 N aqueous sodium hydroxide solution (20 ml) was added to the residue, and the mixture was extracted with dichloromethane five times. The extract was dried over anhydrous magnesium sulfate. The solvent was removed by distillation to prepare 1.15 g of 7-(3-aminopropyl)thioimidazo[5,1-b]thiazole.

reactant | 7-(3-Azidopropyl)thioimidazo[5,1-b]thiazole | 1.46 g | N(=[N+]=[N-])CCCSC=1N=CN2C1SC=C2 | C8H9N5S2
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | THF ethanol | 30 ml | C1CCOC1.C(C)O
solvent | water | 6 ml | O | H2O
catalyst | Pd-C | 1.46 g | [Pd] | Pd
product | 7-(3-Aminopropyl)thioimidazo[5,1-b]thiazole | NCCCSC=1N=CN2C1SC=C2 | C8H11N3S2
